US05595686
A mixture of 3.58 g of 4-(4-phenyl-4-n-propyl-4-silacyclohexyl)cyclohexanecarboxylic acid, 3.0 g of triphenylphosphine and 50 ml of carbon tetrachloride was agitated under reflux for 6 hours. Then, a mixture of 1.50 g of 4-fluorophenol and 10 ml of pyridine was added to the mixture, followed by further addition of 50 mg of 4-dimethylaminopyridine and agitation at room temperature for 18 hours. The resultant reaction mixture was poured into dilute hydrochloric acid, followed by extraction with ethyl acetate. The ethyl acetate solution was washed with brine, dried and concentrated, followed by purification of the resultant residue with silica gel chromatography to obtain 3.20 g (yield: 70%) of 4-fluorophenyl 4-(4-phenyl-n-propyl-4-silacyclohexyl)cyclohexanecarboxylate. The results of

reactant | 4-(4-phenyl-4-n-propyl-4-silacyclohexyl)cyclohexanecarboxylic acid | 3.58 g | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1CCC(CC1)C(=O)O)CCC | C21H32O2Si
reactant | triphenylphosphine | 3.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-fluorophenol | 1.50 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-fluorophenyl 4-(4-phenyl-n-propyl-4-silacyclohexyl)cyclohexanecarboxylate | 3.20 g, yield: 70% | C1(=CC=CC=C1)[SiH]1CCC(CC1)(C1CCC(CC1)C(=O)OC1=CC=C(C=C1)F)CCC | C27H35FO2Si
